US09302991B2
<Step-2>:tert-butyl methyl(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)carbamate (single enantiomer)
To a stirred solution of tert-butyl(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)carbamate (221 mg, 0.69 mmol, Step-1, single enantiomer) and sodium hydride (61 mg, 1.52 mmol, 60% in oil) in N,N-dimethylformamide (7 mL) is added dropwise iodomethane (0.065 mL, 1.04 mL) at room temperature. After stirring at room temperature for 3.5 hours, the reaction mixture is slowly poured into water (30 mL) and extracted with ethyl acetate (30 mL). The organic layer is washed with water (30 mL) and dried over sodium sulfate. After concentration in vacuo, the residue is purified by column chromatography on silica gel eluting with n-hexane/ethyl acetate (9:1) to give 198 mg (86% yield) of the title compound as colorless oil.

reactant | tert-butyl(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)carbamate | 0.69 mmol, 221 mg | C(C)(C)(C)OC(NC(C)C=1C=NC(=CC1)OCC(F)(F)F)=O | C14H19F3N2O3
reactant | sodium hydride | 1.52 mmol, 61 mg | [H-].[Na+]
reactant | iodomethane | 0.065 mL | IC | CH3I
reactant | water | 30 mL | O | H2O
solvent | N,N-dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
product | tert-butyl methyl(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)carbamate | 198 mg, 86% yield | CN(C(OC(C)(C)C)=O)C(C)C=1C=NC(=CC1)OCC(F)(F)F | C15H21F3N2O3
